US05324702
Durene was dissolved in benzene to give a molar ratio of benzene/durene of 2.2. The solution was pumped into the micro-reactor and loaded with 0.50 g of the same Fe-Mo-DBH catalyst used in Example 29 and oxidized in a flow of premixed gas consisting of 6 vol % O2 and 6 vol % N2 in He at two different temperatures, 425° C. and 450° C. Product effluent was analyzed by GC, and each product identified with GC/MS. Results are summarized in Table 23 below

reactant | Durene | C=1(C)C(C)=CC(C)=C(C)C1 | C10H14
solvent | benzene | C1=CC=CC=C1 | C6H6
product | benzene durene | C1=CC=CC=C1.C=1(C)C(C)=CC(C)=C(C)C1 | InChI=1S/C10H14.C6H6/c1-7-5-9(3)10(4)6-8(7)2;1-2-4-6-5-3-1/h5-6H,1-4H3;1-6H
